US07906108B2
A solution of 200 mmol 2-(4-diethylamino-2-hydroxybenzoyl)benzoic acid, 500 mmol propargylic alcohol, 220 mmol 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC), and 500 mmol N-ethyldiisopropylamine in 600 mL DMF is stirred at room temperature for 2 h. 1 L of ethyl acetate is added and the solution extracted with 1 L water. The organic layer is separated, dried (Na2SO4), and the solvent evaporated. The crude product is purified via FC (n-hexane/EtOAC 2:1) yielding 2-(4-diethylamino-2-hydroxybenzoyl)benzoic acid prop-2-ynyl ester. MS (EI): 374 (18%, M+Na+), 352 (100%, M+H+), 296 (17%). UV (EtOH): λmax=356 nm (ε=31'648).

reactant | 2-(4-diethylamino-2-hydroxybenzoyl)benzoic acid | 200 mmol | C(C)N(C1=CC(=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)O)CC | C18H19NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 220 mmol | Cl.CN(CCCN=C=NCC)C
reactant | N-ethyldiisopropylamine | 500 mmol | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
product | 2-(4-diethylamino-2-hydroxybenzoyl)benzoic acid prop-2-ynyl ester | C(C#C)OC(C1=C(C=CC=C1)C(C1=C(C=C(C=C1)N(CC)CC)O)=O)=O | C21H21NO4
